US06281218B1
1-(4-methoxy-3-trifluoromethylphenyl)piperazine
A mixture of 4-methoxy-3-trifluoromethylphenylamine (12 g; 0.0627 mol) and bis(2-chloroethyl) ammonium chloride (11.2 g; 0.0627 mol) in n-butanol (120 ml) was refluxed for 10 hours. The reaction mixture was cooled at room temperature and the crude title compound precipitated as hydrochloride salt overnight. The solid was collected and crystallized from acetone. 7 g; m.p. 244-245° C.

reactant | 4-methoxy-3-trifluoromethylphenylamine | 0.0627 mol, 12 g | COC1=C(C=C(C=C1)N)C(F)(F)F | C8H8F3NO
reactant | bis(2-chloroethyl) ammonium chloride | 0.0627 mol, 11.2 g | [Cl-].ClCC[NH2+]CCCl
solvent | n-butanol | 120 ml | C(CCC)O | C4H10O
product | 1-(4-methoxy-3-trifluoromethylphenyl)piperazine | COC1=C(C=C(C=C1)N1CCNCC1)C(F)(F)F | C12H15F3N2O
